US07576102B2
4-[(R)-3-(4-Phenoxy-phenoxy)-pyrrolidin-1-yl]-butyric acid methyl ester:
(R)-3-(4-Phenoxy-phenoxy)-pyrrolidine (1.24 g, 4.25 mmol) was taken into anhydrous DMF (10 mL) in a nitrogen flushed 100 mL, 1-neck round bottom flask. Methyl-4-bromobutyrate (846 mg, 4.68 mmol) was added to the mixture followed by potassium carbonate (1.18 g, 8.5 mmol). The reaction was heated at 60° C. for 24 h. The mixture was then cooled to room temperature and partitioned between ethyl acetate and water. The water layer was washed with ethyl acetate (3×). The combined ethyl acetate layers were then washed with brine, dried over anhydrous sodium sulfate, filtered, and concentrated to dryness. The resulting residue was then purified by silica gel flash chromatography (20:1 silica ratio, eluted with 1:1 ethyl acetate and hexane) to obtain the title product (894.4 mg, 59%) LCMS; m/z 356 (M+1); 1H NMR (400 MHz, DMSO) δ 1.65-1.78 (m, 3H), 2.21-2.26 (m, 1H), 2.32-2.35 (m, 2H), 2.37-2.42 (m, 3H), 2.58-2.61 (m, 1H), 2.63-2.69 (m, 1H), 2.80-2.84 (m, 1H), 3.58 (s, 3H), 4.80 (s, 1H), 6.89-6.98 (m, 6H), 7.07-7.09 (m, 1H), 7.32-7.36 (m, 2H).

reactant | (R)-3-(4-Phenoxy-phenoxy)-pyrrolidine | 4.25 mmol, 1.24 g | O(C1=CC=CC=C1)C1=CC=C(O[C@H]2CNCC2)C=C1 | C16H17NO2
reactant | Methyl-4-bromobutyrate | 4.68 mmol, 846 mg | COC(CCCBr)=O | C5H9BrO2
reactant | potassium carbonate | 8.5 mmol, 1.18 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 4-[(R)-3-(4-Phenoxy-phenoxy)-pyrrolidin-1-yl]-butyric acid methyl ester | 894.4 mg, 59% | COC(CCCN1C[C@@H](CC1)OC1=CC=C(C=C1)OC1=CC=CC=C1)=O | C21H25NO4
